* RLC serie real

V1 in 0 PULSE(0 10 0 1u 1u 1 2)
R1 in n1 5
L1 n1 n2 10m
C1 n2 0 100u

.tran 1ms 39ms

.control
run
plot v(n2)
plot i(L1)

set wr_singlescale
wrdata rlc.csv  v(n2) i(L1)

.endc

.end

