* Fuente tipo escalón para observar claramente la respuesta natural
V1 in 0 PULSE(0 5 0 1u 1u 1m 5m)

* Componentes
R1 in n1 200
L1 n1 n2 1m
C1 n2 0 1u

* Análisis transitorio
.tran 1u 10m

.control
run
plot v(in) v(n2)
.endc

.end

