* Oscilador Colpitts ~1 MHz

Vcc Vcc 0 DC 9

* Polarización
R1 Vcc B 10k
R2 B 0 1k

* Transistor
Q1 C B E 2N2222

* Colector
Rc Vcc C 1k

* Emisor
Re E 0 100
Ce E 0 100n

* Tanque resonante
L1 C B 100uH
C1 B E 100p
C2 E C 100p

* Modelo transistor (simple)
.model 2N2222 NPN (BF=100)

* Simulación transitoria
.tran 0.1us 5ms

.control
run
plot V(C)
.endc

.end

